US05151534
3 g of carbonyldiimidazole are added to a solution of 3.18 g of 3-thia-5,8,11-eicosatriynoic acid in 50 cm3 of 1,2-dichloroethane, stirred at ambient temperature under an inert atmosphere. The mixture thus obtained is heated to a temperature of between 40° and 50° C. for 3 hours. The solution is then cooled to about 10° C. and 2.10 g of diglycolamine are added. 2 hours after the end of the introduction, the reaction mixture is poured into a saturated solution of ammonium chloride. The organic phase is separated off, washed with water, then dried over magnesium sulphate and finally treated with animal charcoal. The solvent is removed by evaporation under vacuum. The product obtained crystallizes on cooling. It is recrystallized from isopropyl ether. 3 g of N --2)-hydroxyethyl) oxyethyl]-3-thia-5,8,11-eicosatriynamide are thus isolated in the form of cream-white crystals having a melting point of 56° C.

reactant | carbonyldiimidazole | 3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-thia-5,8,11-eicosatriynoic acid | 3.18 g | C(CSCC#CCC#CCC#CCCCCCCCC)(=O)O | C19H26O2S
reactant | diglycolamine | 2.10 g | C(COCCO)N | C4H11NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,2-dichloroethane | 50 cm3 | ClCCCl | C2H4Cl2
product | 3-thia-5,8,11-eicosatriynamide | C(CSCC#CCC#CCC#CCCCCCCCC)(=O)N | C19H27NOS
